US06756380B1
To a suspension of 3.50 g (7.17 mmol) 5-bromo-2-methylsulfanyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide, 0.213 g (0.2 mmol) tetrakis-(triphenylphosphin)palladium and 0.96 g (7.89 mmol) phenylboronic acid in 40 ml 1,2-dimethoxyethane a solution of 0.83 g (7.89 mmol) Na2CO3 in 15 ml H2O was added. The resulting reaction mixture was heated at reflux for 16 hrs. After evaporation of the 1,2-dimethoxyethan, the aqueous phase was extracted twice with 50 ml CH2Cl2. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/ethyl acetate 40:1) and crystallised to give 2.4 g (69%) 2-methylsulfanyl-5-phenyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide as off-white crystalls, m.p 109.7-110.7°.

reactant | 5-bromo-2-methylsulfanyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 7.17 mmol, 3.50 g | FC(C=1C=C(CN(C(=O)C2=NC(=NC=C2Br)SC)C)C=C(C1)C(F)(F)F)(F)F | C16H12BrF6N3OS
reactant | phenylboronic acid | 7.89 mmol, 0.96 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 7.89 mmol, 0.83 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
solvent | H2O | 15 ml | O | H2O
product | 2-methylsulfanyl-5-phenyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 2.4 g, 69% | FC(C=1C=C(CN(C(=O)C2=NC(=NC=C2C2=CC=CC=C2)SC)C)C=C(C1)C(F)(F)F)(F)F | C22H17F6N3OS
